US09416115B2
5-bromobenzo[d]isoxazol-3-ol (200 mg, 0.93 mmol), 2-(chloromethyl)pyrimidine hydrochloride (200 mg, 1.21 mmol) and cesium carbonate (1 g) were combined in 10 mL DMF and stirred at ambient temperature for two days. The reaction mixture was diluted with 60 mL ethyl acetate, washed with water and brine and evaporated under vacuum. Flash chromatographic purification on 12 g silica gel with 0-100% ethyl acetate in hexane gave O-alkylated product 5-bromo-3-(pyrimidin-2-ylmethoxy)benzo[d]isoxazole (120 mg, 0.39 mmol).

reactant | 5-bromobenzo[d]isoxazol-3-ol | 0.93 mmol, 200 mg | BrC=1C=CC2=C(C(=NO2)O)C1 | C7H4BrNO2
reactant | 2-(chloromethyl)pyrimidine hydrochloride | 1.21 mmol, 200 mg | Cl.ClCC1=NC=CC=N1
reactant | cesium carbonate | 1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-(pyrimidin-2-ylmethoxy)benzo[d]isoxazole | 0.39 mmol, 120 mg | BrC=1C=CC2=C(C(=NO2)OCC2=NC=CC=N2)C1 | C12H8BrN3O2
